US04160032
A mixture of 4.0 g. of 5-trifluoromethyl-3-methylthio-oxindole, 20 g. of Raney Nickel and 100 ml. of methanol is refluxed for 4 days, cooled, treated with methylene chloride, filtered to remove the Raney Nickel and the filtrate concentrated in vacuo to obtain 5-trifluoromethyl-oxindole, m.p. 188°-190° C.

reactant | 5-trifluoromethyl-3-methylthio-oxindole | FC(C=1C=C2C(C(NC2=CC1)=S)C)(F)F | C10H8F3NS
reactant | methanol | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-trifluoromethyl-oxindole | FC(C=1C=C2CC(NC2=CC1)=O)(F)F | C9H6F3NO
